US08304557B2
A mixture of 3-nitrophenol (3.65 g, 26.2 mmol), potassium tert-butoxide (3.23 g, 28.8 mmol) and N,N-dimethylformamide (20 mL) was stirred at room temperature for 30 min. After stirring, methyl 4-chloropyridine-2-carboxylate (3.00 g, 17.5 mmol) and potassium carbonate (10.9 g, 78.6 mmol) were added, and the mixture was stirred at 120° C. for 3 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, ethanol (20 mL) and 8N aqueous sodium hydroxide solution (3 mL) were added to the residue, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was neutralized with 1N hydrochloric acid, and the precipitated solid was collected by filtration and washed with water to give 4-(3-nitrophenoxy)pyridine-2-carboxylic acid (345 mg, 8.0%) as a white solid. A mixture of 4-(3-nitrophenoxy)pyridine-2-carboxylic acid (339 mg, 1.24 mmol) thus-obtained, diphenylphosphoryl azide (333 μL, 1.55 mmol), triethylamine (215 μL, 1.55 mmol), N,N-dimethylformamide (5 mL) and water (5 mL) was stirred at 100° C. for 15 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure. The residue was collected by filtration and washed with ethyl acetate-hexane to give the title compound (253 mg, 8.8%) as a white solid.

reactant | 3-nitrophenol | 26.2 mmol, 3.65 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | potassium tert-butoxide | 28.8 mmol, 3.23 g | CC(C)([O-])C.[K+]
reactant | methyl 4-chloropyridine-2-carboxylate | 17.5 mmol, 3.00 g | ClC1=CC(=NC=C1)C(=O)OC | C7H6ClNO2
reactant | potassium carbonate | 78.6 mmol, 10.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-(3-nitrophenoxy)pyridine-2-carboxylic acid | 345 mg, 8.0% | [N+](=O)([O-])C=1C=C(OC2=CC(=NC=C2)C(=O)O)C=CC1 | C12H8N2O5
